US08222281B2
(27A) 4-[(4-Bromophenoxy)methyl]-1,2-dichlorobenzene
4-Bromophenol (1.07 g, 6.18 mmol), 3,4-dichlorobenzyl alcohol (1.42 g, 8.02 mmol), and triphenylphosphine (2.10 g, 8.01 mmol) were dissolved in tetrahydrofuran (30 mL), and a diethyl azodicarboxylate toluene solution (2.2M, 3.65 mL, 8.03 mmol) was slowly added dropwise thereto at room temperature, and then, the resulting mixture was stirred under a nitrogen atmosphere at room temperature for 2 hours. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 95:5 (v/v)), whereby the objective title compound was obtained as a white solid (2.25 g, quantitative).

reactant | 4-Bromophenol | 6.18 mmol, 1.07 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 3,4-dichlorobenzyl alcohol | 8.02 mmol, 1.42 g | ClC=1C=C(CO)C=CC1Cl | C7H6Cl2O
reactant | triphenylphosphine | 8.01 mmol, 2.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate toluene | 8.03 mmol, 2.2M, 3.65 mL | C1(=CC=CC=C1)C.N(=NC(=O)OCC)C(=O)OCC
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-[(4-Bromophenoxy)methyl]-1,2-dichlorobenzene | BrC1=CC=C(OCC2=CC(=C(C=C2)Cl)Cl)C=C1 | C13H9BrCl2O
